US20010041710A1
(4R)-1-[4-(4-Fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid hydroxyamide
To a solution of (4R)-1-[4-(4-fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid (120 mg, 0.36 mmol) in methylene chloride (5 mL) were added sequentially 1-hydroxybenztriazole (73 mg, 0.54 mmol), diisopropylethylamine (0.13 mL, 0.75 mmol), O-(2-trimethylsilylethyl)hydroxylamine hydrochloride (92 mg, 0.54 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (104 mg, 0.54 mmol). The reaction mixture was stirred at room temperature for 16 hours and was then diluted with methylene chloride and water. The organic phase was washed successively with aqueous 1M HCl solution, water, aqueous saturated NaHCO3 solution and brine. After drying over MgSO4, the solution was concentrated to an oil. The title compound, an oil (85 mg, 53%), was isolated by chromatography on silica gel eluting with ethyl acetate.

reactant | (4R)-1-[4-(4-fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid | 0.36 mmol, 120 mg | FC1=CC=C(OC2=CC=C(CN3C(N[C@H](C3)C(=O)O)=O)C=C2)C=C1 | C17H15FN2O4
reactant | 1-hydroxybenztriazole | 0.54 mmol, 73 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.75 mmol, 0.13 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | O-(2-trimethylsilylethyl)hydroxylamine hydrochloride | 0.54 mmol, 92 mg | Cl.C[Si](CCON)(C)C
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.54 mmol, 104 mg | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (4R)-1-[4-(4-Fluorophenoxy)benzyl]-2-oxo-imidazolidine-4-carboxylic acid hydroxyamide | ONC(=O)[C@@H]1NC(N(C1)CC1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O | C17H16FN3O4
